US06340759B1
(252-1) 2-Methyl-N-methylnicotinamide
To ethyl 2-methylnicotinate (24.2 g) was added a solution of 40% methylamine in methanol (150 ml), which was then heated in a sealed tube at 50° C. overnight. The reaction mixture was evaporated, to give the title compound as a pale yellow solid (20.781 g, yield; 95%).

reactant | ethyl 2-methylnicotinate | 24.2 g | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
reactant | methylamine | CN | CH5N
solvent | methanol | 150 ml | CO | CH4O
product | 2-Methyl-N-methylnicotinamide | 20.781 g, yield; 95% | CC1=C(C(=O)NC)C=CC=N1 | C8H10N2O
